US09216975B2
Preparation of 2,3-dihydro-2-oxobenzo[d]oxazole-4-carboxylic acid 21
2-amino-3-hydroxybenzoic acid (1.2 g, 7.8 mmol) was suspended in 20 ml of THF and at 0° C. CDI (1.9 g, 1.5 equiv.) was added. The mixture was warmed at 80° C. for 5 hours. The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with water (1×20 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by crystallization from EtOAc/ether gave 520 mg of an orange solid. Yield=37% 1HNMR (DMSO, 200 MHz) δ 7.45 (3H, m), 10.40 (1H, bs), 12.00 (1H, bs)

reactant | 2-amino-3-hydroxybenzoic acid | 7.8 mmol, 1.2 g | NC1=C(C(=O)O)C=CC=C1O | C7H7NO3
reactant | CDI | 1.9 g, 1.5 equiv. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,3-dihydro-2-oxobenzo[d]oxazole-4-carboxylic acid | 520 mg, Yield=37% | O=C1OC=2C(N1)=C(C=CC2)C(=O)O | C8H5NO4
